US04402961
30 ml of a 10 N aqueous solution of acetic acid are added to a solution containing 7 g of 4-[2-(2-pyridyl)-ethyl]-quinoline in 700 ml of ethanol, then 1.4 g of 82% platinum oxide is added as catalyst. Hydrogenation is effected at 45° C. under a hydrogen pressure equal to the normal pressure (1 bar) for 24 hours, being careful to replace the catalyst used every eight hours by fresh catalyst. At the end of the 24 hours (the quantity of hydrogen absorbed is then 2.9 liters), the catalyst is removed by filtration, the ethanol is evaporated under reduced pressure and the residue is taken up with 200 ml of water. The aqueous phase is extracted with chloroform, then made alkaline with concentrated ammonia and extracted with methylene chloride. The methylene chloride phase is dried over magnesium sulfate and evaporated under reduced pressure. The oily residue (6.3 g) is fixed on a column containing 630 g of silica, then eluted with a 9/1 toluene-diethylamine mixture. 1.9 g are thus isolated of 4-[2-(2-piperidyl)-ethyl]-quinoline.

reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | 4-[2-(2-pyridyl)-ethyl]-quinoline | 7 g | N1=C(C=CC=C1)CCC1=CC=NC2=CC=CC=C12 | C16H14N2
solvent | ethanol | 700 ml | C(C)O | C2H6O
catalyst | platinum oxide | 1.4 g | [Pt]=O
product | 4-[2-(2-piperidyl)-ethyl]-quinoline | N1C(CCCC1)CCC1=CC=NC2=CC=CC=C12 | C16H20N2
